Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Hydrocodone
 
Attending: ___.
 
Chief Complaint:
Lightheadedness and Shortness of Breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with a history of HTN, HLD, GERD, 45 pack-year 
___ use who presents with an acute episode of 
lightheadeness, unsteady gait, tremulousness, and shortness of 
breath after awaking from a nap this AM.  Symptoms occured 
immediately after standing up after waking.  He reports feeling 
lightheaded but denies loss of consciousness, focal weakness, 
parasthesias, or blurry vision. No dysarthria, confusion or 
aphasia per wife.  He has noticed increasing shortness of breath 
over the last few weeks and a chronic cough with sputum 
production for >6 months without recent change. Per patient and 
wife, he has been increasingly fatigued over the last month and 
falling asleep during conversations. Patient scheduled for sleep 
study for suspected OSA (heavy snoring with apnea at night), not 
yet completed. Patient notes onset of bilateral lower extremity 
edema over the past month and increased pain in his legs with 
walking which is relieved with rest.  Currently undergoing 
vascular workup.  He denies chest pain, palpitations, orthopnea, 
nocturnal dyspnea, nausea, vomiting.

Notes increasing difficulty falling asleep and staying asleep 
over the last year which he contributes to nocturia 
(___). History of chronic UTI on macrobide w/ chronic 
dysuria, urgency, hesitancy, and retention. Was evaluated by 
urologist years ago, but is unaware of any diagnosis apart from 
chronic UTI's.  
    
Patient called an ambulance shortly after symptoms began.  EMT's 
noted HTN to 200/100, 88% on RA to 97% on 4L NC. FSBG 119. 
Reported resolution of symptoms with oxygen. 

In the ED, initial vitals: 98.4 55 160/78 20 97% 4L NC.  Labs 
were notable for HCT 53, BNP 304, trop <0.01, HCO3 33. ECG 
showed sinus bradycardia HR 53, t wave inversions 1, avL, V6.  
Received methylprednisolone, prednisone 20mg, albuterol, 
ipratropium, and azithromycin.In the ED, initial vitals: 98.4 55 
160/78 20 97% 4L NC.  Labs notable for HCT 53, BNP 304, trop 
<0.01, HCO3 33.  CXR showed COPD and possible mild pulmonary 
edema.  ECG showed sinus bradycardia HR 53, t wave inversions 1, 
avL, V6.  Received methylprednisolone, prednisone 20mg, 
albuterol, ipratropium, and azithromycin.  Vitals prior to 
transfer: not available.

Upon arrival to the floor, he appears comfortable, talking in 
full sentences.  Denies current lightheadedness.
  
ROS: per HPI, otherwise 10 point review of systems is negative.  


 
Past Medical History:
Hypertension
Hypercholesterolemia
GERD
Chronic UTI

 
Social History:
___
Family History:
Mother: ___ yo-alive with HTN/HLD and h/o MI 
Father: died at ___, history of heart disease, colon cancer.

 
Physical Exam:
Admission Physical Exam:
VS: 98.5 161/66, 58, 22, 95% 4L NC
General: NAD, speaking in full sentences, cyanosis present on 
nose (baseline per family)
HEENT:  EOMI, PERRL, no O/P lesions, no cervical LAD
Neck:  unable to appreciate JVP due to body habitus
CV:  RRR no M/R/G
Lungs:  distant quiet breath sounds, no 
wheezing/rhonchi/crackles
Abdomen:  obese, NABS, NT/ND, no HSM
Ext: erythema in stocking distributing b/l ___, 1+ pitting edema 
to knees b/l, pulses 1+ ___ b/l, feet warm   
Neuro: CN ___ intact, ___ strength all extremities, sharp and 
dull sensation intact, no dysmetria on finger to nose testing, 
A&O x3

Discharge Physical Exam:
VS 98.0, 150/76, 70, 20, 94% 3L NC
Orthostatics: 179/72 --> 159/98
I: 260 PO O: BRP x2
General: NAD, resting in bed, cyanosis on nose tip
HEENT:  EOMI, PERRL, no O/P lesions, no cervical LAD
Neck:  Supple w/o LAD, JVD not appreciated
CV: distant, RRR no M/R/G
Lungs:  Barrerl chest, no accessory muscle use, distant breath 
sounds, minor expiratory wheezes
Abdomen:  obese, NABS, NT/ND, no HSM
Ext: venoustasis changes, b/l ___, 1+ pitting edema to knees b/l, 
___ pulses 1+ b/l  
Neuro: CN ___ intact, motor strenth, sensation grossly intact 
throughout, A&O x3

 
Pertinent Results:
Admission Labs:
___ 12:15PM BLOOD WBC-8.3 RBC-5.57 Hgb-18.0 Hct-53.2* 
MCV-96 MCH-32.3* MCHC-33.8 RDW-12.6 Plt ___
___ 12:15PM BLOOD ___ PTT-37.6* ___
___ 12:15PM BLOOD Glucose-105* UreaN-8 Creat-0.8 Na-136 
K-4.5 Cl-95* HCO3-33* AnGap-13
___ 12:15PM BLOOD ALT-32 AST-29 AlkPhos-92 TotBili-0.5
___ 12:15PM BLOOD Lipase-24
___ 12:15PM BLOOD proBNP-304*
___ 12:15PM BLOOD cTropnT-<0.01
___ 08:45PM BLOOD CK-MB-4 cTropnT-<0.01
___ 12:15PM BLOOD Albumin-4.6 Calcium-9.4 Phos-4.6* Mg-2.1
___ 12:15PM BLOOD %HbA1c-5.9 eAG-123
___:45PM BLOOD TSH-1.1

Interval cardiac labs:
___ 12:15PM BLOOD cTropnT-<0.01
___ 08:45PM BLOOD CK-MB-4 cTropnT-<0.01
___ 02:08AM BLOOD CK-MB-4 cTropnT-<0.01
___ 07:12AM BLOOD CK-MB-3 cTropnT-<0.01
___ 08:45PM BLOOD CK(CPK)-77
___ 02:08AM BLOOD CK(CPK)-65
___ 07:12AM BLOOD CK(CPK)-58

Discharge Labs:
___ 07:12AM BLOOD WBC-11.3* RBC-5.29 Hgb-17.3 Hct-50.8 
MCV-96 MCH-32.7* MCHC-34.1 RDW-12.7 Plt ___
___ 07:12AM BLOOD Glucose-144* UreaN-10 Creat-0.7 Na-141 
K-4.8 Cl-98 HCO3-32 AnGap-16
___ 07:12AM BLOOD Calcium-9.3 Phos-4.4 Mg-2.1

Additional Studies: 

EKG ___
Sinus bradycardia. Prior anteroseptal myocardial infarction. ST 
segment 
depressions and T wave inversions in leads I and aVL with 
biphasic to inverted T waves in leads V5-V6. Slight ST segment 
elevation in leads III amnd aVF, recorded on a tracing with 
baseline artifact. The Q-T interval is prolonged. These findings 
suggest acute inferolateral ischemia. Followup and clinical 
correlation are suggested. 
TRACING #1 
Read by: ___ 
  ___ Axes 
Rate PR QRS QT/QTc P QRS T 
53 ___ 48 56 115 
 
Chest x ray ___
FINDINGS:  PA and lateral views of the chest were provided.  The 
lungs are hyperinflated.  There is no overt edema or signs of 
pneumonia.  There is minimal diffuse ground-glass opacity which 
could represent a very mild 
pulmonary edema.  Cardiomediastinal silhouette is normal.  Bony 
structures are intact.  No free air below the right 
hemidiaphragm.  The heart is top normal in size. 
IMPRESSION:  COPD, possible mild pulmonary edema. 

___ TTE
Conclusions  
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. Regional 
left ventricular wall motion is normal. Left ventricular 
systolic function is hyperdynamic (EF>75%). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The aortic root is mildly dilated 
at the sinus level. The ascending aorta is mildly dilated. The 
aortic valve is mildly thickened and probably bicuspid. There is 
mild aortic valve stenosis (valve area 1.2-1.9cm2). No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion.   

 
Brief Hospital Course:
___ year old man with a history of hypertension, hyperlipidemia, 
gastroesophogeal reflux, and a 45 pack-year smoking history who 
presented with an episode of lightheadedness, shortness of 
breath, and unsteady gait in the setting of increased 
sleepiness, and chronic cough over the preceding 6 months to ___ 
year and increased lower extremity edema over the last 1 month. 
Patient was awaiting CPAP machine in the mail and was currently 
undergoing vascular assessment for suspected venous 
insufficiency as an outpatient. Patient presented by ambulance 
from his home. Symptoms improved with oxygen in the ambulance. 
In the Emergency department, patient was hypertensive to 200/100 
and saturating 97% on 4 liters by nasal cannula. He was 
transferred to the medical floor in stable condition.

#COPD: Chronic cough and subjective shortness of breath 
secondary to undiagnosed and untreated COPD without past 
spirometry. In the ED, the patient received methylprednisolone, 
prednisone 20mg, albuterol, ipratropium, and azithromycin. His 
chest X-ray, physical exam, and labs (Hematocrit 53.2, HCO3- 33) 
were classic for COPD. Given his chronically stable cough 
without change in sputum production, bronchospasm, or evidence 
of infection it was felt that he was not having a COPD 
exacerbation, but rather untreated COPD was contributing to his 
complaints of daytime sleepiness and shortness of breath. 
Patient was given albuterol and ipatropium nebulizers during his 
hospitalization and his oxygenation and subjective feeling of 
shortness of breath improved. He was discharged with 
prescriptions for albuterol and ipatropium, received inhaler 
education, and scheduled for an outpatient pulmonology 
appointment. He expressed a desire to quit smoking and was 
prescribed a nicotine patch and education on quitting. He was 
provided with close follow-up with his primary care physician.

#Obstructive Sleep Apnea(OSA): Patient with multiple risk 
factors for OSA who stated he was suppose to be receiving a CPAP 
machine in the mail and was to be fitted. History of daytime 
sleepiness, fatigue, night time awakenings, and snoring was 
consistent with obstructive sleep apnea. He was provided with a 
CPAP machine overnight and slept well with subsequent 
improvement in symptoms. Likely OSA played a large part in his 
symptoms including his suspected pulmonary hypertension, heart 
failure, and lower extremity edema. He will benefit from CPAP at 
home, which he stated was to be arriving soon. He was scheduled 
for outpatient pulmonology and primary care appointments to 
further assess his disease.   

#Diastolic Congestive Heart Failure: Left sided diastolic 
congestive heart failure in the setting of hypertension likely 
contributing to dyspnea and lower extremity edema. An EKG was 
performed which showed evidence of prior anteroseptal myocardial 
infarction and suggestion of acute inferolateral ischemia. 
Cardiac enzymes were trended and remained negative times 3 with 
a BNP of 304. He was monitored on telemetry throughout his 
hospitalization without any events. A transthoracic echo was 
performed showing a LVEF >75% and left atrial enlargement, 
consistent with diastolic dysfunction. A chest X-Ray showed 
pulmonary edema which was also consistent with congestive heart 
failure and worsening shortness of breath. His lisinopril was 
upped from 20mg to 40 mg daily and his atenolol was decreased to 
25mg. He was provide with close cardiology follow-up at 
discharge.    

#Smoking cessation: ___ pack year history, was smoking 
approximately 1 pack of cigarettes a day. Patient stated he had 
been trying to quit and was previously successful for greater 
than ___ years. He stated his primary care physician was suppose 
to be mailing him a medication to assist him with smoking 
cessation, but he has not received it in the mail. He requested 
and received a nicotine patch in the hospital as well as further 
education on smoking cessation. He was asked to follow-up with 
his primary care physician regarding continued use of the patch 
and slow down titration. 

Patient remained stable throughout the course of his 
hospitalization. He was discharged home with close follow-up 
with his primary care physician, ___, and pulmonology. 
All other chronic conditions were managed without complications. 
He remained full code throughout his admission. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. NexIUM *NF* (esomeprazole magnesium) 40 mg Oral daily 
3. Atenolol 50 mg PO DAILY 
hold for HR<60 or SBP<90 
4. Lisinopril 20 mg PO DAILY 
hold for SBP <90 
5. Amlodipine 5 mg PO DAILY 
hold for SBP <90 
6. Atorvastatin 10 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Nitrofurantoin (Macrodantin) 100 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Atorvastatin 10 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. Atenolol 25 mg PO DAILY 
RX *atenolol 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
6. Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour (28)-14 mg/24 hour (14)-7 mg/24 hour 
(14) 1 patch daily as directed Disp #*56 Transdermal Patch 
Refills:*0
7. NexIUM *NF* (esomeprazole magnesium) 40 mg ORAL DAILY 
8. Nitrofurantoin (Macrodantin) 100 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet,delayed release (___) by mouth 
daily Disp #*30 Tablet Refills:*0
10. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB or wheezing 
please dispense with a spacer 
RX *albuterol sulfate 90 mcg 2 puff inh q4H PRN Disp #*1 Inhaler 
Refills:*0
11. Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 puff 
inh daily Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
COPD
OSA
Diastolic CHF

Secondary
Venous Stasis
Lower Extremity Edema
Hypertension
Hypercholesterolemia
Alcohol Abuse
Smoking
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

You were admitted for lightheadedness, shortness of breath, and 
increasing fatigue.  Chest X-ray and blood labs were consistent 
with Chronic Obstructive Pulmonary Disease (COPD) which partly 
explains your chronic cough, shortness of breath, and fatigue. 
The most important step to improving COPD is to quit smoking and 
to use the inhalers as prescribed. You were given education in 
the hospital on how to use these inhalers. You will be sent home 
with a prescription for nicotine patches to help you quit 
smoking and will need to follow-up with your primary care 
physician. Also, it will be important for you to follow-up with 
the pulmonologist to get the appropriate lung test and optimize 
your medication regimen for your COPD.

We also feel obstructive sleep apnea is contributing to your 
frequent night time awakenings, daytime sleepiness, high blood 
pressure, and shortness of breath. You were started on a CPAP 
machine during the night of your hospitalization with 
improvement in your sleep and daytime symptoms. Please make sure 
to get fit for your CPAP and use it while sleeping to improve 
your breathing. 

We were also concerned with your heart given your lower leg 
swelling and high blood pressure. An EKG was performed which did 
now show evidence of an acute heart attack. However, you have 
likely suffered a small heart attack in the past based on the 
EKG findings. The ultrasound of your heart is consistent with 
congestive heart failure. Congestive heart failure can cause 
symptoms of shortness of breath, cough, and swelling in the 
legs. It will be important for you to follow up with a 
cardiologist to further evaluate your heart disease. Your 
Lisinopril was increased to 40mg once daily. Your atenolol was 
decreased to 25mg once a day. Please take these medications as 
prescribed. 

We also discussed our concern over your alcohol consumption and 
potential implications on your liver and other organs. We 
advised you decreased your alcohol consumption to less than 14 
drinks per week and less than ___ drinks per day. 

Thank you for allowing us to participate in your care.    
 
Followup Instructions:
___